US05612371
Example 2: Preparation of methyl N-(E)-[1-oxo-2-(acetylthiomethyl)-3-phenylpropenyl]-β-alaninate
The (E)-2-acetylthiomethyl-3-phenylpropenoic acid described in Example 1 (step C) is coupled with methyl β-alaninate according to the experimental procedure described in Example 1 (step D). Yield: 60% (after flash chromatography, eluent: ether/petroleum ether 6/4) m.p. 54° C. IR (nujol): 3280, 1720, 1680, 1630, 1610 cm-1 1H NMR: 7.20, (s, 5H); 6.80 (s, 1H); 5.90 (broad s, 1H); 3.85 (s, 2H); 3.50 (s, 3H); 3.60 to 3.30 (m, 2H); 2.35 (t, 2H, J=5.30 Hz); 2.25 (s, 3H). Microanalysis: C16H19O4NS Calc. % C=59.79 H=5.96 N=4.36 Found. % C=59.67 H=6.28 N=4.47

reactant | (E)-2-acetylthiomethyl-3-phenylpropenoic acid | C(C)(=O)SC\C(\C(=O)O)=C\C1=CC=CC=C1 | C12H12O3S
reactant | methyl β-alaninate | NCCC(=O)OC | C4H9NO2
product | methyl N-(E)-[1-oxo-2-(acetylthiomethyl)-3-phenylpropenyl]-β-alaninate | Yield: 60% | O=C(/C(=C\C1=CC=CC=C1)/CSC(C)=O)NCCC(=O)OC | C16H19NO4S
